US05502128
p-Tolunitrile (35.14 g, 0.30 mol) was contacted with lithium dimethylamide (15.31 g, 0.30 mol) in diethyl ether (250 mL) at room temperature. Replacement of the solvent by toluene, subsequent reaction with chlorotrimethylsilane (38.1 mL, 0.30 mol) and work-up of the reaction mixture afforded N-trimethylsilyl-N,N'-dimethyl-p-toluamidine in 52 percent yield. Fractional high vacuum distillation of this crude product (85° C., 2×10-3Torr) allowed the isolation of the pure product (36-37 g) as a low-melting (28° C.) colorless crystalline solid. The 1H NMR spectrum showed the aromatic protons of the tolyl group as an apparent doublet of doublets (δ7.08 ppm) due to an AA'BB' slitting pattern characteristic in para unsymmetrically disubstituted benzenes. The two methyl groups attached to the nitrogens were recorded as a broad singlet (~16 Hz) at 2.88 ppm.

reactant | p-Tolunitrile | 0.30 mol, 35.14 g | C1(=CC=C(C=C1)C#N)C | C8H7N
reactant | lithium dimethylamide | 0.30 mol, 15.31 g | C[N-]C.[Li+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | chlorotrimethylsilane | 0.30 mol, 38.1 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | N-trimethylsilyl-N,N'-dimethyl-p-toluamidine | 52 percent yield | C[Si](N(C(=NC)C1=CC=C(C=C1)C)C)(C)C | C13H22N2Si
